US04069229
1.0 g of (Nα,Nε -ditertbutoxycarbonyl-L-lysyl)-N-(4-bromo-2-picolinoylphenyl)glycinamide was stirred for 1 hour in a solution of hydrogen chloride in dioxan (4-M). Diethyl ether was added and the solid which separated was filtered off, washed with diethyl ether and dried. The solid was dissolved in methanol and precipitated with ethyl acetate. The precipitate was dissolved in 20 ml of water and, after extraction with chloroform, the aqueous solution was lyophilised to yield 0.7 g (88%) of L-lysyl-N-(4-bromo-2-picolinoylphenyl)glycinamide trichydrochloride 1.5 H2O; [α]D20 = +20.1°](c = 1 in water).

reactant | (Nα,Nε -ditertbutoxycarbonyl-L-lysyl)-N-(4-bromo-2-picolinoylphenyl)glycinamide | 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)NCC(=O)NC1=C(C=CC=C1)C(C1=NC=CC(=C1)Br)=O | C30H40BrN5O7
reactant | hydrogen chloride | Cl | ClH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | L-lysyl-N-(4-bromo-2-picolinoylphenyl)glycinamide | 0.7 g, 88% | N[C@@H](CCCCN)C(=O)NCC(=O)NC1=C(C=CC=C1)C(C1=NC=CC(=C1)Br)=O | C20H24BrN5O3
